US05292740
210 mg of 4-tert-butyl-N-[5-(2-chloro-5-methoxyphenoxy)-2-ethyl-6-(2-methylsulphanyl-ethoxy)-pyrimidin-4-yl]-benzenesulfonamide were dissolved in 5 ml of MeOH and 0.2 ml of 1N NaOH. 95 mg of NalO4 dissolved in 0.5 ml of H2O were added thereto and the mixture was stirred at room temperature for 5 hours, whereby a suspension resulted. Then, 0.2 ml of 1N HCl was added and the mixture was subsequently evaporated to dryness. The residue was partitioned between ethyl acetate and 0.1N HCl and worked-up as usual. For purification, the compound was chromatographed on silica gel using ethyl acetate-MeOH (6:1 by vol.) as the eluent. There were obtained 160 mg of (RS)-4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-2-ethyl-6-(2-methylsulphinyl-ethoxy)pyrimidin-4-yl]-benzenesulfonamide as a white powder. MS: 581 (M).

reactant | 4-tert-butyl-N-[5-(2-chloro-5-methoxyphenoxy)-2-ethyl-6-(2-methylsulphanyl-ethoxy)-pyrimidin-4-yl]-benzenesulfonamide | 210 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)OCCSC)CC | C26H32ClN3O5S2
reactant | HCl | 1N, 0.2 ml | Cl | ClH
reactant | MeOH | 5 ml | CO | CH4O
solvent | NaOH | 1N, 0.2 ml | [OH-].[Na+]
solvent | H2O | 0.5 ml | O | H2O
product | (RS)-4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-2-ethyl-6-(2-methylsulphinyl-ethoxy)pyrimidin-4-yl]-benzenesulfonamide | 160 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)OCCS(=O)C)CC | C26H32ClN3O6S2
